US04775692
Dimethyl methylphosphonate (8.8 g, 0.071 mol) was dissolved in anhydrous THF (100 ml) under argon atmosphere. To the solution stirred at -78° C. was added dropwise n-butyl lithium (1.58N, 45 ml, 0.071 mol) over 30 minutes and then a solution of methyl isobutyrate (2.9 g, 0.0284 mol) in anhydrous THF (5 ml) was added dropwise over 30 minutes. The reaction mixture was warmed to room temperature. After 30 minutes, acetic acid (4.3 ml) and water (10 ml) were added with ice cooling. After concentration, water (20 ml) was added to the residue and the mixture was extracted with ethyl acetate (50 ml×2). The ethyl acetate layers were washed with water (20 ml×1) and with brine (20 ml×1), dried over anhydrous sodium sulfate, and concentrated. Distillation of the residue gave dimethyl 3-methyl-2-oxo-butylphosphonate (4.8 g, 0.025 mol, yield 88%, b.p.= 82°-84° C./0.31 mmHg). The structure was identified by the following data.

reactant | Dimethyl methylphosphonate | 0.071 mol, 8.8 g | CP(OC)(OC)=O | C3H9O3P
reactant | n-butyl lithium | 0.071 mol, 1.58N, 45 ml | C(CCC)[Li]
reactant | methyl isobutyrate | 0.0284 mol, 2.9 g | C(C(C)C)(=O)OC | C5H10O2
reactant | acetic acid | 4.3 ml | C(C)(=O)O | C2H4O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | dimethyl 3-methyl-2-oxo-butylphosphonate | 0.025 mol, 4.8 g, yield 88% | CC(C(CP(OC)(OC)=O)=O)C | C7H15O4P
